US05665754
trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine (3.1 g, 7.5 mmol) was dissolved in 50 mL of 4% HCO2H:methanol. While stirring at room temperature, 10% Pd/C (400 mg) was added in small portions. After 16 hrs the reaction was diluted with methanol. Filtration through Celite followed by concentration under reduced pressure yielded a yellow oil residue. This residue was dissolved in CH2Cl2 and DMAP (1.19 g, 9.75 mmol) and benzyl chloroformate (1.5 g, 8.2 mmol) were added. The resulting solution was stirred at room temperature. When reaction was judged complete by TLC analysis the mixture was partitioned between CH2Cl2 and 1M H3PO4. The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×). The organic layers were combined, dried (MgSO4), filtered, and concentrated under reduced pressure to afford a pale oil. Chromatography on silica gel (3:2, hexanes:ethyl acetate) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethoxycarbonyl)pyrrolidine as a white solid (1.34 g, 40%). m.p. 85° C. Anal. Calcd for C26H31NO6 : C, 68.86; H, 6.89; N, 3.09. Found: C, 68.81; H, 6.94; N, 2.99.

reactant | trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine | 7.5 mmol, 3.1 g | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)CC1=CC=CC=C1 | C25H31NO4
reactant | benzyl chloroformate | 8.2 mmol, 1.5 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | HCO2H | 50 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.75 mmol, 1.19 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethoxycarbonyl)pyrrolidine | 1.34 g, 40% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)C(=O)OCC1=CC=CC=C1 | C26H31NO6
